US05489593
1-[6-Methoxy-7-methylindolyl-2-carbonyl]-4-(3-ethylamino-2-pyridinyl)piperazine (III)
Following the general procedure of EXAMPLE 16 and making non-critical variations but starting with 6-methoxy-7-methylindole-2-carboxylic acid (0.23 g), 1-(3-ethyl-2-pyridinyl) piperazine (0.24 g), 1,1'-carbonyldiimidazole (0.19 g) and THF (3 ml), the title compound is obtained, mp 162°-163°.

reactant | 6-methoxy-7-methylindole-2-carboxylic acid | 0.23 g | COC1=CC=C2C=C(NC2=C1C)C(=O)O | C11H11NO3
reactant | 1-(3-ethyl-2-pyridinyl) piperazine | 0.24 g | C(C)C=1C(=NC=CC1)N1CCNCC1 | C11H17N3
reactant | 1,1'-carbonyldiimidazole | 0.19 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 1-[6-Methoxy-7-methylindolyl-2-carbonyl]-4-(3-ethylamino-2-pyridinyl)piperazine | CCNC1=C(N=CC=C1)N2CCN(CC2)C(=O)C3=CC4=C(N3)C(=C(C=C4)OC)C | C22H27N5O2
